US09035073B2
3-(3-chloro-5-fluorophenyl)-3-methoxypyrrolidine
To a solution of tert-butyl-3-(3-chloro-5-fluorophenyl)-3-methoxypyrrolidin-1-carboxylate (1.57 g, 4.77 mmol) in dichloromethane (20 ml), was added trifluoroacetic acid (5 ml). The mixture was stirred for 1 h at ambient temperature after which the solvent was evaporated. Purification on a Biotage Isolute SCX-3 SPE column (washed with methanol and eluted with methanol/triethylamine, 4:1) gave the title compound (0.845 g, 77%). The amine was converted to the oxalic acid salt and recrystallized from methanol/diethyl ether: M.p. 169-170° C. MS m/z (rel. intensity, 70 eV) 199 (bp), 187 (93), 157 (61), 133 (66), 129 (59).

reactant | tert-butyl-3-(3-chloro-5-fluorophenyl)-3-methoxypyrrolidin-1-carboxylate | 4.77 mmol, 1.57 g | C(C)(C)(C)OC(=O)N1CC(CC1)(OC)C1=CC(=CC(=C1)F)Cl | C16H21ClFNO3
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(3-chloro-5-fluorophenyl)-3-methoxypyrrolidine | 0.845 g, 77% | ClC=1C=C(C=C(C1)F)C1(CNCC1)OC | C11H13ClFNO
